US07781428B2
methyl 5-oxo-6-((tetrahydro-2H-pyran-4-yl)methylene)-5,6,7,8-tetrahydronaphthalene-2-carboxylate
A solution of methyl 5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate (2.9 mmol), tetrahydro-pyran-4-carbaldehyde (3.2 mmol), and piperidine (3.2 mmol) in 6 mL of methanol was heated to 65° C. overnight. The cooled mixture was diluted with ethyl acetate, washed with water and brine, dried over sodium sulfate, and concentrated. The residue was purified by silica gel, eluting with ethyl acetate in hexane from 10% to 40%, to give 430 mg of the desired product. ES-MS m/z 301 (M+H).

reactant | methyl 5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 2.9 mmol | O=C1C=2C=CC(=CC2CCC1)C(=O)OC | C12H12O3
reactant | tetrahydro-pyran-4-carbaldehyde | 3.2 mmol | O1CCC(CC1)C=O | C6H10O2
reactant | piperidine | 3.2 mmol | N1CCCCC1 | C5H11N
solvent | methanol | 6 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-oxo-6-((tetrahydro-2H-pyran-4-yl)methylene)-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 430 mg | O=C1C=2C=CC(=CC2CCC1=CC1CCOCC1)C(=O)OC | C18H20O4
